US06818652B2
A suspension of methyl triphenylphosphonium bromide (1.062 g, 2.97 mmole) in 20 mL of THF at 0° C. was treated dropwise with 1.2 mL of a 2.5M butyllithium solution. The mixture was stirred at room temperature for 30 minutes and then cooled to 0° C. A solution of 1-(4,4-dimethyl-chroman-7-yl)-hexan-1-one (0.516 g, 1.98 mmole) in 5 mL of THF was added to the ylide solution. The reaction mixture was stirred at room temperature for one hour, quenched by the addition of 25 mL water and extracted with three 25 mL portions of ether. The combined organic extracts were dried over MgSO4, filtered and concentrated in vacuo to give a yellow solid. The product was purified by flash chromatography (SiO2, 2% ethyl acetate in hexanes) to yield 0.442 g of 4,4-dimethyl-7-(1-methylene-hexyl)-chroman as a colorless oil.

reactant | butyllithium | 2.5M | C(CCC)[Li]
reactant | 1-(4,4-dimethyl-chroman-7-yl)-hexan-1-one | 1.98 mmole, 0.516 g | CC1(CCOC2=CC(=CC=C12)C(CCCCC)=O)C | C17H24O2
catalyst | methyl triphenylphosphonium bromide | 2.97 mmole, 1.062 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4,4-dimethyl-7-(1-methylene-hexyl)-chroman | 0.442 g | CC1(CCOC2=CC(=CC=C12)C(CCCCC)=C)C | C18H26O
